US08497281B2
Step 1: cis-2,2,2-trifluoro-1-(6-phenyl-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-ethanone
The title compound is prepared from trifluoro-methanesulfonic acid cis-1-(2,2,2-trifluoro-acetyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester and phenylboronic acid following a procedure analogous to that described in Step 2 of Intermediates 17 and 18. Yield: 70% of theory; LC (method 1): tR=5.02 min; Mass spectrum (ESI+): m/z=346 [M+H]+.

reactant | trifluoro-methanesulfonic acid cis-1-(2,2,2-trifluoro-acetyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester | FC(C(=O)N1[C@@H]2[C@H](CCC1)C=1C=C(C=CC1C2)OS(=O)(=O)C(F)(F)F)(F)F | C15H13F6NO4S
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | cis-2,2,2-trifluoro-1-(6-phenyl-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-ethanone | Yield: 70% | FC(C(=O)N1[C@@H]2[C@H](CCC1)C=1C=C(C=CC1C2)C2=CC=CC=C2)(F)F | C20H18F3NO
